US09382238B2
A mixture of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)phenyl)acetamide (60 mg, 0.094 mmol) and Pd/C (10.03 mg, 0.094 mmol) in MeOH (15 mL) was stirred for 0.5 h under a H2 atmosphere at 25° C. Then the mixture was filtered and the filtrate was concentrated to give the residue which was purified by preparative HPLC to yield 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)phenyl)acetamide (41.53 mg, 0.079 mmol, 84% yield): 1H NMR (400 MHz, DMSO-d6) 611.40-11.29 (m, 1H), 10.86 (s, 1H), 8.50 (s, 1H), 8.21 (s, 1H), 7.86 (s, 1H), 7.40-7.29 (m, 2H), 7.23 (d, J=2.6 Hz, 2H), 5.78 (s, 1H), 4.02 (q, J=7.1 Hz, 2H), 3.79 (s, 2H), 2.58 (s, 3H), 1.26 (t, J=6.9 Hz, 3H); ES-LCMS m/z 517 (M+H).

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)phenyl)acetamide | 0.094 mmol, 60 mg | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=CC(=C1)C(F)(F)F)C=1OC(=NN1)C)F | C33H28F4N4O5
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 0.094 mmol, 10.03 mg | [Pd] | Pd
product | 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)phenyl)acetamide | 0.079 mmol, 41.53 mg, 84% yield | C(C)OC=1C(=CNC(C1)=O)C1=CC(=C(C=C1)CC(=O)NC1=CC(=CC(=C1)C(F)(F)F)C=1OC(=NN1)C)F | C25H20F4N4O4
